US07728155B2
To a solution of indan-4-ol (6.71 g, 50.00 mmol) in toluene (500 mL) cooled to 0° C. was added triphenylphosphine (14.43 g, 55.00 mmol) followed by diethylazodicarboxylate (9.58 g, 55.00 mmol) and finally 3-buten-2-ol (3.97 g, 55.00 mmol). The reaction mixture was allowed to stir at room temperature for 3 h. The reaction mixture was quenched by the addition of water (10 mL) and the solvent was removed in vacuo to give a crude solid. Purification by flash column chromatography (silica, ethyl acetate:hexanes 1:99) gave (±)-4-[(1-methylprop-2-enyl)oxy]indane. Treatment of the allyl ether in refluxing mesitylene generally according to the procedure described for Intermediate 1 afforded 5-[(2E)-but-2-enyl]indan-4-ol. To a solution of the olefin (7.74 g, 41.1 mmol) in dichloromethane (400 mL) cooled to 0° C. was added 3-chloroperoxybenzoic acid (25.34 g, 0.103 mol). The reaction mixture was allowed to stir at room temperature for 4 h. The solvent was removed in vacuo and the residue was re-dissolved in methanol (400 mL). Potassium carbonate (28.42 g, 0.206 mol) was added and the reaction mixture was allowed to stir at room temperature for 1 h. The solvent was removed in vacuo and the residue was partitioned between ethyl acetate (250 mL) and water (500 mL). The aqueous layer was extracted with ethyl acetate (250 mL) and the combined organic layers were washed with water (2×250 mL), saturated aqueous sodium chloride (200 mL), dried (magnesium sulfate), and the solvent was removed in vacuo to provide a crude oil. Purification by flash column chromatography (silica, ethyl acetate:hexanes 2:3) afforded (2S*)-1-[(2R*)-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl]ethylamine. Treatment of the alcohol (3.05 g, 14.93 mmol) with p-toluenesulfonyl chloride (4.27 g, 22.40 mmol) in pyridine (150 mL) generally according to the procedure described for Intermediate 18 gave (1S*)-1-methyl-2-[(2R*)-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl]ethyl 4-methylbenzenesulfonate. Treatment of the tosylate (4.55 g, 12.7 mmol) with sodium azide (3.30 g, 50.8 mmol) generally according to the procedure described for Intermediate 24 afforded (2R*)-2-[(2S*)-2-azidopropyl]-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan. Treatment of the azide with palladium on carbon (10 wt. %, 0.290 g) generally according to the procedure described for Example 2 gave 2.29 g (75%) of (2R*)-1-[(2R*)-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl]ethylamine as a white solid, hydrochloride salt. mp>250° C.; Anal. calcd. for C13H17NOHCl: C, 65.13; H, 7.57; N, 5.84. Found: C, 65.16; H, 7.69; N, 5.63.

reactant | indan-4-ol | 50.00 mmol, 6.71 g | C1CCC=2C(=CC=CC12)O | C9H10O
reactant | triphenylphosphine | 55.00 mmol, 14.43 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 55.00 mmol, 9.58 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 3-buten-2-ol | 55.00 mmol, 3.97 g | CC(C=C)O | C4H8O
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | (±)-4-[(1-methylprop-2-enyl)oxy]indane | CC(C=C)OC1=C2CCCC2=CC=C1 | C13H16O
